US04743291
A stirred mixture of 4.6 g (0.015 mole) of 1-(4-chloro-2-fluoro-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 200 mL of methylene chloride was cooled to 10° C. and a solution of 11.2 g (0.045) mole of boron tribromide in 45 mL of methylene chloride was added. Upon complete addition the reaction mixture was stirred for four hours as it warmed to ambient temperature. After this time 100 mL of water was added, and stirring was continued for an additional 18 hours. The organic layer was separated, dried with anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to yield 4.4 g of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one; mp 147°-152° C.

reactant | 1-(4-chloro-2-fluoro-5-methoxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.015 mole, 4.6 g | ClC1=CC(=C(C=C1OC)N1N=C(N(C1=O)C(F)F)C)F | C11H9ClF3N3O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 4.4 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O2
